US04203988
B. 2-(4-Dimethylaminobutylamino)-4,6-dimethylpyridine
N-(4-Chlorobutyl)-N-(4,6-dimethyl-2-pyridyl)acetamide (28 g., 0.11 mole) is heated with dimethylamine (25 g., 0.55 mole) in 250 mole of ethanol in the presence of cuprous chloride (0.5 g.) for 6 hours at 100°. On cooling the mixture is treated with charcoal, filtered, and then concentrated under vacuum. The residue is taken up in dilute sodium hydroxide and the mixture extracted with diethyl ether, then methylene chloride. The organic extracts are concentrated after washing with water. The residue, weighing 26 g is then refluxed in 5 N sodium hydroxide (200 ml) overnight. On cooling the mixture is extracted with methylene chloride. The organic extracts are washed with brine, dried over sodium sulfate and concentrated. The residue is distilled to obtain the product oil, b.p. 137-142/1.2 mm.

reactant | N-(4-Chlorobutyl)-N-(4,6-dimethyl-2-pyridyl)acetamide | 0.11 mole, 28 g | ClCCCCN(C(C)=O)C1=NC(=CC(=C1)C)C | C13H19ClN2O
reactant | dimethylamine | 0.55 mole, 25 g | CNC | C2H7N
reactant | ethanol | 250 mole | C(C)O | C2H6O
reactant | charcoal | C | CH4
product | 2-(4-Dimethylaminobutylamino)-4,6-dimethylpyridine | CN(CCCCNC1=NC(=CC(=C1)C)C)C | C13H23N3
